US07888364B2
1 g of methyl 4-(bromomethyl)benzoate was reacted via Procedure O. 2.77 g of methyl 4-(methylsulfonylmethyl)benzoate was hydrolyzed via Procedure M. 1 g of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 1.15 g of 4-(methylsulfonylmethyl)benzoic acid via Procedure G. The crude product was subjected to basic workup and recrystallized with 1:1 Ratio of Isopropylacetate and Ether to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide. MS (Q1) 401 (M)+.

reactant | methyl 4-(bromomethyl)benzoate | 1 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | methyl 4-(methylsulfonylmethyl)benzoate | 2.77 g | CS(=O)(=O)CC1=CC=C(C(=O)OC)C=C1 | C10H12O4S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 1 g | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(methylsulfonylmethyl)benzoic acid | 1.15 g | CS(=O)(=O)CC1=CC=C(C(=O)O)C=C1 | C9H10O4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CS(=O)(=O)C)=O)C1=NC=CC=C1 | C20H17ClN2O3S
